** sch_path: /foss/designs/SAR_ADC/xschem/test/tb_cdac_2.sch
**.subckt tb_cdac_2
x1 out net2 d2 d4 d11 d0 d8 d7 d9 d10 d3 d5 d6 d1 GND vdd cdac cu=56
V1 vcm GND 3.3
V2 vdd GND 3.3
x2 net1 vdd out vcm GND sample bootstrap_sw
x3 vdd GND net1 sample inv cl=0.28u wp=0.44u wn=.22u wx=0.22u mx=2
**** begin user architecture code


.param period=100n
.param stoptime={15*period}
vsmp sample 0 PULSE(0 3.3 0 10p 10p {period/2} {period} 1)
vd0 d0 0 PULSE( 3.3 0 {1.2*period} 10p 10p {period/2} {period} 1)
vd1 d1 0 PULSE( 3.3 0 {2.2*period} 10p 10p {period/2} {period} 1)
vd2 d2 0 PULSE( 3.3 0 {3.2*period} 10p 10p {period/2} {period} 1)
vd3 d3 0 PULSE( 3.3 0 {4.2*period} 10p 10p {period/2} {period} 1)
vd4 d4 0 PULSE( 3.3  0 {5.2*period} 10p 10p {period/2} {period} 1)
vd5 d5 0 PULSE( 3.3  0 {6.2*period}10p 10p {period/2} {period} 1)
vd6 d6 0 PULSE( 3.3  0 {7.2*period} 10p 10p {period/2} {period} 1)
vd7 d7 0 PULSE( 3.3 0 {8.2*period} 10p 10p {period/2} {period} 1)
vd8 d8 0 PULSE( 3.3  0 {9.2*period} 10p 10p {period/2} {period} 1)
vd9 d9 0 PULSE( 3.3 0 {10.2*period} 10p 10p {period/2} {period} 1)
vd10 d10 0 PULSE( 3.3 0 {11.2*period} 10p 10p {period/2} {period} 1)
vd11 d11 0 PULSE( 3.3 0 {12.2*period} 10p 10p {period/2} {period} 1)
.tran {0.001*stoptime} {stoptime} uic
.control

save v(d0) v(d1) v(d2) v(d3) v(d4) v(d5) v(d6) v(d7) v(d8) v(d9) v(d10) v(d11) v(out)
run
*plot sample sampled
plot {vcm-ip}
plot {(ip-out)}
plot  d0 d1 d2 d3 d4 d5 d6 d7 d8 d9 d10 d11 out 1.65
*plot sample out
 write ./../sim/dac_output.raw
.endc



.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_statistical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

**** end user architecture code
**.ends

* expanding   symbol:  cdac.sym # of pins=16
** sym_path: /foss/designs/SAR_ADC/xschem/designs/cdac.sym
** sch_path: /foss/designs/SAR_ADC/xschem/designs/cdac.sch
.subckt cdac xd in d[9] d[7] d[0] d[11] d[3] d[4] d[2] d[1] d[8] d[6] d[5] d[10] gnd vdd  cu=5u
*.ipin d[0]
*.ipin d[1]
*.ipin d[2]
*.ipin d[3]
*.ipin d[4]
*.ipin d[5]
*.ipin d[6]
*.ipin d[7]
*.ipin d[8]
*.ipin d[9]
*.ipin d[10]
*.ipin d[11]
*.iopin vdd
*.iopin gnd
*.iopin in
*.iopin xd
x1 in vdd gnd d[0] cdac_line CW={cu} CL={cu} n=1
x2 in vdd gnd d[1] cdac_line CW={2*cu} CL={2*cu} n=2
x3 in vdd gnd d[2] cdac_line CW={4*cu} CL={4*cu} n=4
x4 in vdd gnd d[3] cdac_line CW={8*cu} CL={8*cu} n=8
x5 in vdd gnd d[4] cdac_line CW={16*cu} CL={16*cu} n=16
x6 in vdd gnd d[5] cdac_line CW={32*cu} CL={32*cu} n=32
XCA xd in cap_mim_2f0fF c_width={sqrt((64*cu)/(2*63))*1u} c_length={sqrt((64*cu)/(2*63))*1u} m=1
x7 xd vdd gnd d[6] cdac_line CW={sqrt(1)*cu} CL={sqrt(1)*cu} n=1
x8 xd vdd gnd d[7] cdac_line CW={2*cu} CL={2*cu} n=2
x9 xd vdd gnd d[8] cdac_line CW={4*cu} CL={4*cu} n=4
x10 xd vdd gnd d[9] cdac_line CW={8*cu} CL={8*cu} n=8
x11 xd vdd gnd d[10] cdac_line CW={16*cu} CL={16*cu} n=16
x12 xd vdd gnd d[11] cdac_line CW={32*cu} CL={32*cu} n=32
XC1 in gnd cap_mim_2f0fF c_width={sqrt(cu/2)*1u} c_length={sqrt(cu/2)*1u} m=1
.ends


* expanding   symbol:  bootstrap_sw.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC/xschem/designs/bootstrap_sw.sym
** sch_path: /foss/designs/SAR_ADC/xschem/designs/bootstrap_sw.sch
.subckt bootstrap_sw clk vdd vout vin vss negclk
*.iopin vdd
*.iopin vss
*.ipin vin
*.opin vout
*.iopin clk
*.iopin negclk
XM1 vin net3 vout vss nfet_03v3 L=0.28u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 net3 net5 net1 net1 pfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 vin negclk net2 vss nfet_03v3 L=0.28u W=0.3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM8 net3 vdd negclk vss nfet_03v3 L=0.28u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM6 net2 clk vss vss nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
CB net1 net2 0.1p m=1
XMb net5 negclk net4 net4 pfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMc net1 vy net4 vss nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMb2 vin clk net2 vdd pfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 net5 negclk vin vss nfet_03v3 L=0.28u W=0.3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMb3 net5 clk vin vdd pfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 vy vy net1 vss nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMc1 vdd net6 vy vss nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMc2 vdd vy net6 vss nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
CB1 vy clk 1p m=1
CB2 net6 negclk 1p m=1
XM7 vout clk vout vss nfet_03v3 L=0.28u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC/xschem/designs/inv.sym
** sch_path: /foss/designs/SAR_ADC/xschem/designs/inv.sch
.subckt inv vdd gnd vout vin  cl=0.28u wp=0.44u wn=0.22u wx=0.22u mx=1
*.ipin gnd
*.ipin vdd
*.ipin vin
*.opin vout
XM1 gnd vin vout gnd nfet_03v3 L=0.28u W=Wx nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=mx
XM2 vdd vin vout vdd pfet_03v3 L=0.28u W={Wx*1.4} nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=mx
.ends


* expanding   symbol:  cdac_line.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC/xschem/designs/cdac_line.sym
** sch_path: /foss/designs/SAR_ADC/xschem/designs/cdac_line.sch
.subckt cdac_line vout vdd gnd vin  CW=1e-6 CL=1e-6 n=1
*.ipin vdd
*.ipin gnd
*.ipin vin
*.opin vout
XC1 vout net1 cap_mim_2f0fF c_width={sqrt(CW/2)*1u} c_length={sqrt(CL/2)*1u} m=1
x3 vdd gnd net1 net2 inv cl=0.28u wp=0.44u wn=0.22u wx=1u mx=n
x1 vdd gnd net2 vin inv cl=0.28u wp=0.44u wn=0.22u wx=.22u mx=n
.ends

.GLOBAL GND
.end
